US04317823
1-Methyl-4-nitropyrazole-5-carboxylic acid
18.8 g of 1-methylpyrazole-5-carboxylic acid (mp 227° to 228° C.) are stirred in a mixture consisting of 23.5 of 100% strength nitric acid and 17 ml of 25% strength oleum for 8 hours at from 55° to 60° C. and for 4.5 hours at from 70° to 75° C. The mixture is poured onto ice and extracted with 9:1 methylene chloride/ethanol. The extract is concentrated. This yields 27 g of 1-methyl-4-nitropyrazole-5-carboxylic acid, mp 162° to 164° C., with decomposition (from ethyl acetate).

reactant | 1-methylpyrazole-5-carboxylic acid | 18.8 g | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 1-Methyl-4-nitropyrazole-5-carboxylic acid | CN1N=CC(=C1C(=O)O)[N+](=O)[O-] | C5H5N3O4
